US07528155B2
4-Methylpiperidine-1-carbonyl chloride
9 g (90.75 mmol) of 4-methylpiperidine and 13.9 ml (100 mol) of triethylamine were dissolved in 100 ml of THC and, at −30° C., 54.9 ml (100 mmol) of phosgene in toluene (20 percent) were added, and the mixture was stirred for 2.5 h, during which it warmed to room temperature. The reaction mixture was concentrated, the residue was mixed with methylene chloride and filtered off, and the filtrate was concentrated. The crude product (12.7 g) was reacted without further purification.

reactant | 4-methylpiperidine | 90.75 mmol, 9 g | CC1CCNCC1 | C6H13N
reactant | triethylamine | 100 mol, 13.9 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | 100 mmol, 54.9 ml | C(=O)(Cl)Cl | CCl2O
solvent | THC | 100 ml | CCCCCC=1C=C(C2=C(C1)OC([C@H]3[C@H]2C=C(CC3)C)(C)C)O | C21H30O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-Methylpiperidine-1-carbonyl chloride | CC1CCN(CC1)C(=O)Cl | C7H12ClNO
